US07531532B2
Benzyl [4-(2-{3-[1-(2-dimethylaminoethyl)piperidin-4-yl]-3-methylureido}pyridin-4-yloxy)-2-fluorophenyl]carbamate
After adding triethylamine (0.127 ml) and phenyl chloroformate (0.100 ml) to a solution of benzyl [4-(2-aminopyridin-4-yloxy)-2-fluorophenyl]carbamate (113 mg) in tetrahydrofuran (5.0 ml), the mixture was stirred for 30 minutes at room temperature under a nitrogen atmosphere. The reaction mixture was partitioned between ethyl acetate (50 ml) and brine (30 ml). The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. To this residue was added a suspension (4 ml) produced by adding tetrahydrofuran (6.0 ml) and triethylamine (2.0 ml) to N-[1-(2-dimethylaminoethyl)piperidin-4-yl]-N-methylamine trihydrochloride (673 mg), and the resulting mixture was stirred at room temperature for 27 hours. Ethyl acetate (30 ml) and 1N aqueous sodium hydroxide (10 ml) were added to the reaction mixture, and stirring was carried out for 5 hours at room temperature. Brine was added thereto and the mixture was extracted with ethyl acetate. The aqueous layer was then extracted with ethyl acetate. The organic layers were combined and washed with 1N aqueous sodium hydroxide and brine in that order, and dried over anhydrous sodium sulfate. The dried organic layer was concentrated and the residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate:methanol=20:1 to 10:1). Fractions containing the target compound were concentrated to provide a white solid. Methanol (3 ml) and 5N aqueous sodium hydroxide (1 ml) were added thereto, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was then partitioned between ethyl acetate and brine. The organic layer was washed with brine and then dried over anhydrous sodium sulfate. It was subsequently concentrated. The residue was purified by LC-MS (eluent; acetonitrile-water-trifluoroacetic acid system). Fractions containing the target compound were concentrated, respectively. The residue was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate. The organic layer was dried over anhydrous sodium sulfate. It was then concentrated to provide the title compound (51.3 mg, 28.4%) as a colorless oil.

reactant | phenyl chloroformate | 0.100 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | benzyl [4-(2-aminopyridin-4-yloxy)-2-fluorophenyl]carbamate | 113 mg | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(OCC1=CC=CC=C1)=O)F | C19H16FN3O3
reactant | N-[1-(2-dimethylaminoethyl)piperidin-4-yl]-N-methylamine trihydrochloride | 673 mg | Cl.Cl.Cl.CN(CCN1CCC(CC1)NC)C
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
reactant | sodium hydroxide | 5N, 1 ml | [OH-].[Na+]
reactant | Methanol | 3 ml | CO | CH4O
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
solvent | Brine | [Cl-].[Na+].O
solvent | tetrahydrofuran | 6.0 ml | O1CCCC1 | C4H8O
solvent | Ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.127 ml | C(C)N(CC)CC | C6H15N
product | Benzyl [4-(2-{3-[1-(2-dimethylaminoethyl)piperidin-4-yl]-3-methylureido}pyridin-4-yloxy)-2-fluorophenyl]carbamate | 51.3 mg, 28.4% | CN(CCN1CCC(CC1)N(C(NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(OCC1=CC=CC=C1)=O)F)=O)C)C | C30H37FN6O4
